** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_tb.sch
**.subckt PFD_tb
Vref CRef GND dc 0 ac 0 pulse(0 {Vp} {T/2} 10n 10n {T/2} {T})
Vco CVco GND dc 0 ac 0 pulse(1u {Vp} {dly} 10n 10n {T/2} {T})
Vp net1 GND dc {Vp}
C1 UP GND 5p
C2 DOWN GND 5p
x1 DOWN UP CVco CRef GND net1 PFD_cell
**** begin user architecture code
 .lib cornerMOSlv.lib mos_ss



.temp=25
.param T = 31.25u
.param dly=1u
.param Vp=1.2
.control
save all
tran 25n 200u

meas tran pw_up avg v(UP) from=100u to=200u
meas tran pw_down avg v(DOWN) from=100u to=200u
plot v(pw_up) v(pw_down)
write PFD_tb.raw
.endc

.inc /foss/designs/CHIP-PLL/layout/extraction/PFD_cell.pex.spice

.GLOBAL GND
.end
